US06699992B2
34.7 g of anhydrous K2CO3 (0.35 mol) was added to a solution of 62.6 g of methyl 2-(2,4-dichloro-5-fluoro-3-methoxybenzoyl)-3-cyclopropylaminoacrylate in 220 ml of DMF. The reactant was stirred at 40-45° C. for 2.5 hours, and the reaction was monitored by TLC. The resulting mixture was then poured into 800 ml of ice-water, filtered, washed with water (100 ml×2), and dried. The resulting solid was dissolved in 120 ml of 95% methanol and then refluxed for 15 minutes, cooled, filtered and dried to afford 50.8 g of methyl 1-cyclopropyl-7-chloro-6-fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylate (0.156 mol) as a white solid, mp 184-187C., in 90.1% yield.

reactant | K2CO3 | 0.35 mol, 34.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 2-(2,4-dichloro-5-fluoro-3-methoxybenzoyl)-3-cyclopropylaminoacrylate | 62.6 g | ClC1=C(C(=O)C(C(=O)OC)=CNC2CC2)C=C(C(=C1OC)Cl)F | C15H14Cl2FNO4
solvent | DMF | 220 ml | CN(C)C=O | C3H7NO
product | methyl 1-cyclopropyl-7-chloro-6-fluoro-8-methoxy-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.156 mol, 50.8 g, 90.1% yield | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)Cl)F)=O)C(=O)OC | C15H13ClFNO4
